US04558143
To a mixture of 24 ml of water and 6 ml of 40% aqueous solution of chloroacetaldehyde was added 0.7 g (8 mmoles) of sodium hydrogencarbonate while cooling with ice. To the reaction mixture were added dropwise 4.2 g (30 mmoles) of 5,5-dimethyl-1,3-cyclohexanedione and 40 ml of aqueous solution containing 2.3 g (27 mmoles) of sodium hydrogencarbonate while cooling with ice at a rate of 0.4 ml/minute. The reaction mixture was maintained at a pH of from 5.7 to 8.0 throughout the reaction. After completing the dropping, the reaction mixture was stirred at a room temperature overnight, and then treated in the same manner as in Example 1 to give 2.36 g (yield: 48.2%) of 4-oxo-6,6-dimethyl-4,5,6,7-tetrahydrobenzofuran being a colorless oily material (boiling point: 78° C./0.7 mmHg).

reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | sodium hydrogencarbonate | 8 mmoles, 0.7 g | C(O)([O-])=O.[Na+]
reactant | 5,5-dimethyl-1,3-cyclohexanedione | 30 mmoles, 4.2 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | sodium hydrogencarbonate | 27 mmoles, 2.3 g | C(O)([O-])=O.[Na+]
solvent | water | 24 ml | O | H2O
product | 4-oxo-6,6-dimethyl-4,5,6,7-tetrahydrobenzofuran | 2.36 g, yield: 48.2% | O=C1CC(CC2=C1C=CO2)(C)C | C10H12O2
